US07863291B2
Step A: 3-Isothiocyanatoisoquinoline
To a solution of 1,1′-thiocarbonyldipyridin-2(1H)-one (0.805 g, 3.47 mmol) in dichloromethane at room temperature was added isoquinolin-3-amine (0.5 g, 3.47 mmol). The reaction was stirred at room temperature for 18 hours. The LC/MS showed the desired product peak a major peak. The deep orange solution was concentrated and filtered. The filtrate was purified by silica gel chromatography (0-40% ethyl acetate-hexanes) to afford 4-isothiocyanato-6-(3-methoxyphenyl)pyrimidine (0.55 g, 2.96 mmol, 85% yield) a white solid. LCMS R.T.=2.47; [M+H]+=187.23.

reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 3.47 mmol, 0.805 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | isoquinolin-3-amine | 3.47 mmol, 0.5 g | C1=NC(=CC2=CC=CC=C12)N | C9H8N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Isothiocyanatoisoquinoline | N(=C=S)C=1N=CC2=CC=CC=C2C1 | C10H6N2S
